US05326772
(-)-3-Methyl-5-[3-(4,4-diphenyl-1-piperidinyl)-propyl]-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate hydrochloride
A mixture of 86.6 g of (-)-3-methyl-5-(3-bromopropyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate, 50 g of 4,4-diphenylpiperidine hydrochloride and 69 g of finely powdered potassium carbonate is heated for 5 h in 300 ml of dimethyl formamide to 100° C. under a nitrogen atmosphere and with vigorous sti rring. After cooling, 500 ml of ethyl acetate and 1 l of water are added with vigorous stirring. The phases are separated; the organic phase is washed four times with water, dried over sodium sulfate and concentrated in vacuo. The residue is dissolved in 1 l of dioxane; then 15.2 ml of concentrated hydrochloric acid solution (12.5 M, d =1.19) are added, and about 200 ml of the solvent mixture are removed by distillation in vacuo. The product crystallizes spontaneously on standing at room temperature or after inoculation or trituration, and is filtered off by suction after 16 h, washed with dioxane and diisopropyl ether, and dried at 80 to 100° C. in vacuo. For further purification the crude product is dissolved in dichloromethane. After addition of 800 ml of dioxane the dichlormethane is distilled off. The product which crystallizes after inoculation on standing at room temperature for 16 h is filtered off by suction, washed with dioxane and diisopropyl ether, and dried at 100° C. in vacuo. 97 g of the title compound {m.p. 158° C. to 160° C. and [α]43622 =-39° (c=1, methanol) or [α]=-14,4 (c =1, methanol)} are obtained.

reactant | (-)-3-methyl-5-(3-bromopropyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | 86.6 g | CC1(C(NC(C(C1C1=CC(=CC=C1)[N+](=O)[O-])(C(=O)[O-])CCCBr)C)C)C(=O)[O-]
reactant | 4,4-diphenylpiperidine hydrochloride | 50 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | 1 l | O | H2O
product | (-)-3-Methyl-5-[3-(4,4-diphenyl-1-piperidinyl)-propyl]-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate hydrochloride | 97 g | Cl.CC1(C(NC(C(C1C1=CC(=CC=C1)[N+](=O)[O-])(C(=O)O)CCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C)C)C(=O)O | InChI=1S/C36H43N3O6.ClH/c1-25-34(3,32(40)41)31(27-12-10-17-30(24-27)39(44)45)36(33(42)43,26(2)37-25)18-11-21-38-22-19-35(20-23-38,28-13-6-4-7-14-28)29-15-8-5-9-16-29;/h4-10,12-17,24-26,31,37H,11,18-23H2,1-3H3,(H,40,41)(H,42,43);1H
